### PR TITLE
[Merged by Bors] - refactor(Data/Sym/Sym2): curry `mk`

### PR DESCRIPTION
**Pull request by YaelDillies**
Curry `Sym2.mk` from `Sym2.mk (p : α × α)` to `Sym2.mk (a b : α)`. This matches the `s(a, b)` notation and reduces the uncertainty about simp normal form.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sym/Card.lean [hunk 1]
```diff
@@ -123,24 +123,21 @@ namespace Sym2
...
-  rw [card_image_of_injOn, diag_card]
-  rintro ⟨x₀, x₁⟩ hx _ _ h
-  cases Sym2.eq.1 h
-  · rfl
-  · simp only [mem_coe, mem_diag] at hx
-    rw [hx.2]
-
-lemma two_mul_card_image_offDiag (s : Finset α) : 2 * #(s.offDiag.image Sym2.mk) = #s.offDiag := by
-  rw [card_eq_sum_card_image (Sym2.mk : α × α → _), sum_const_nat (Sym2.ind _), mul_comm]
+theorem card_image_diag (s : Finset α) : #(s.diag.image fun (a, b) ↦ s(a, b)) = #s := by
```
Comment (plp127) [inline Mathlib/Data/Sym/Card.lean]: Does this put a `match` in the theorem statement?

File: Mathlib/Data/Sym/Sym2.lean [hunk 2]
```diff
@@ -99,24 +99,24 @@ It is equivalent in a natural way to multisets of cardinality 2 (see
 abbrev Sym2 (α : Type u) := Quot (Sym2.Rel α)
 
 /-- Constructor for `Sym2`. This is the quotient map `α × α → Sym2 α`. -/
-protected abbrev Sym2.mk {α : Type*} (p : α × α) : Sym2 α := Quot.mk (Sym2.Rel α) p
+protected abbrev Sym2.mk {α : Type*} (a b : α) : Sym2 α := Quot.mk (Sym2.Rel α) (a, b)
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2.lean:102]: (Link for quick access: here is the relevant change)

File: Mathlib/Data/Sym/Sym2.lean [hunk 3]
```diff
@@ -134,21 +134,29 @@ protected theorem inductionOn₂ {f : Sym2 α → Sym2 β → Prop} (i : Sym2 α
...
-  Quot.rec f h z
+  Quot.rec (fun (a, b) ↦ f a b) (fun (a, b) (c, d) ↦ h a b c d) z
+
+/-- Dependent recursion principle for `Sym2`. See `Quot.recOn`. -/
+@[elab_as_elim]
+protected def recOn {motive : Sym2 α → Sort*} (z : Sym2 α)
+    (f : (a b : α) → motive s(a, b))
+    (h : (a b c d : α) → (h : Rel α (a, b) (c, d)) → Eq.ndrec (f a b) (Sym2.sound h) = f c d)
+    : motive z :=
+  Quot.recOn z (fun (a, b) ↦ f a b) (fun (a, b) (c, d) ↦ h a b c d)
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2.lean:151]: (quick link: this is new)

File: Mathlib/Data/Sym/Sym2.lean [hunk 4]
```diff
@@ -500,12 +503,11 @@ theorem diag_injective : Function.Injective (Sym2.diag : α → Sym2 α) := fun
 def IsDiag : Sym2 α → Prop :=
   lift ⟨Eq, fun _ _ => propext eq_comm⟩
 
+@[simp]
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2.lean:506]: (quick link: this is newly `simp`)

**Review by joneugster — APPROVED** [review]
Looks good to me!

the few `deprecated` statements also indicate that this is a desired refactor.

(I've marked the 3 places with changes with a comment. Everything else is, as far as I can see, only adaptation to the uncurrying)

maintainer merge

File: Mathlib/Data/Sym/Sym2.lean [hunk 5]
```diff
@@ -134,21 +134,29 @@ protected theorem inductionOn₂ {f : Sym2 α → Sym2 β → Prop} (i : Sym2 α
...
     (z : Sym2 α) : motive z :=
-  Quot.rec f h z
+  Quot.rec (fun (a, b) ↦ f a b) (fun (a, b) (c, d) ↦ h a b c d) z
+
+/-- Dependent recursion principle for `Sym2`. See `Quot.recOn`. -/
+@[elab_as_elim]
+protected def recOn {motive : Sym2 α → Sort*} (z : Sym2 α)
+    (f : (a b : α) → motive s(a, b))
+    (h : (a b c d : α) → (h : Rel α (a, b) (c, d)) → Eq.ndrec (f a b) (Sym2.sound h) = f c d)
+    : motive z :=
```
Comment (Vierkantor) [inline Mathlib/Data/Sym/Sym2.lean]:
```suggestion
    (h : (a b c d : α) → (h : Rel α (a, b) (c, d)) → Eq.ndrec (f a b) (Sym2.sound h) = f c d) :
    motive z :=
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 6]
```diff
@@ -157,11 +165,11 @@ protected def hrec {motive : Sym2 α → Sort*}
...
 protected abbrev recOnSubsingleton {motive : Sym2 α → Sort*}
-    [(p : α × α) → Subsingleton (motive (Sym2.mk p))]
-    (z : Sym2 α) (f : (p : α × α) → motive (Sym2.mk p)) : motive z :=
-  Quot.recOnSubsingleton z f
+    [(a b : α) → Subsingleton (motive s(a, b))]
+    (z : Sym2 α) (f : (a b : α) → motive s(a, b)) : motive z :=
+  Quot.recOnSubsingleton z fun (a, b) ↦ f a b
 
-theorem mk_surjective : Function.Surjective (@Sym2.mk α) := Quot.mk_surjective
+theorem mk_surjective : Function.Surjective (fun ((a, b) : α × α) ↦ s(a, b)) := Quot.mk_surjective
```
Comment (Vierkantor) [inline Mathlib/Data/Sym/Sym2.lean]: What do you say about adding a new `abbrev`/notation for the function `fun (a, b) ↦ s(a, b)`? It reappears a few times and I can imagine we'd disagree between this spelling and `fun x ↦ s(x.1, x.2)`.

Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean]: I will just use `uncurry`, unless you think it's a bad idea

File: Mathlib/Data/Sym/Sym2.lean [hunk 7]
```diff
@@ -157,11 +165,11 @@ protected def hrec {motive : Sym2 α → Sort*}
 See `Quot.recOnSubsingleton`. -/
 @[elab_as_elim]
 protected abbrev recOnSubsingleton {motive : Sym2 α → Sort*}
-    [(p : α × α) → Subsingleton (motive (Sym2.mk p))]
-    (z : Sym2 α) (f : (p : α × α) → motive (Sym2.mk p)) : motive z :=
-  Quot.recOnSubsingleton z f
+    [(a b : α) → Subsingleton (motive s(a, b))]
+    (z : Sym2 α) (f : (a b : α) → motive s(a, b)) : motive z :=
+  Quot.recOnSubsingleton z fun (a, b) ↦ f a b
```
Comment (SnirBroshi) [inline Mathlib/Data/Sym/Sym2.lean:170]:
```suggestion
  Quot.recOnSubsingleton z f.uncurry
```
This fails because `Function.uncurry` isn't dependent; should we make it dependent? (in a separate PR)

**Review by Vierkantor — APPROVED** [review]
`Function.uncurry` also works for me, thank you! It ended up being a nice cleanup 🎉 

bors r+

File: Mathlib/Data/Sym/Sym2.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/Data/Sym/Sym2.lean:170]: Don't mind. But then it should probably be renamed to `Pi.uncurry`
